US07314888B1
In 7 ml of N,N-dimethylformamide are suspended 0.70 g of methyl 4,6-dibromo-1,3-diisopentyl-2-oxo-2,3-dihydro-1H-benzimidazole-5-carboxylate, 0.16 g of tetrakis(triphenylphosphine)palladium(0), 0.44 ml of formic acid and 2.4 ml of triethylamine. The suspension is stirred at 100° C. for 3 hours. The reaction mixture is added to a mixture of ethyl acetate and water, pH is adjusted to 4 with 2 mol/L hydrochloric acid, and the organic layer is separated. The organic layer thus obtained is washed with water and saturated aqueous solution of sodium chloride successively and dried over anhydrous magnesium sulfate, and then the solvent is distilled off under reduced pressure. The residue thus obtained is purified by silica gel column chromatography (eluent; hexane:ethyl acetate=5:1) to obtain 0.37 g of methyl 1,3-diisopentyl-2-oxo-2,3-dihydro-1H-benzimidazole-5-carboxylate as a colorless oily product.

reactant | methyl 4,6-dibromo-1,3-diisopentyl-2-oxo-2,3-dihydro-1H-benzimidazole-5-carboxylate | 0.70 g | BrC1=C(C(=CC=2N(C(N(C21)CCC(C)C)=O)CCC(C)C)Br)C(=O)OC | C19H26Br2N2O3
reactant | formic acid | 0.44 ml | C(=O)O | CH2O2
reactant | triethylamine | 2.4 ml | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 2 mol/L | Cl | ClH
solvent | N,N-dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.16 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 1,3-diisopentyl-2-oxo-2,3-dihydro-1H-benzimidazole-5-carboxylate | 0.37 g | C(CC(C)C)N1C(N(C2=C1C=CC(=C2)C(=O)OC)CCC(C)C)=O | C19H28N2O3
